US08729071B2
To a suspension of 4-chloro-5H-pyrrolo[3,2-d]pyrimidine (1.53 g, 10.0 mmol) in 30 mL of THF was added NaH (560 mg, 14.0 mmol, 60% in mineral oil) by portion under N2. After the mixture was cooled to 0° C., benzyl chloromethyl ether (1.71 mL, 13.0 mmol) was added. Then the mixture was stirred at RT for 1 h (monitored by TLC 40% EtOAc/Hex). 8 mL of anhydrous MeOH was added into the reaction mixture followed by NaH (400 mg, 10.0 mmol, 60% mineral oil) by portion. The resulting mixture was stirred at RT overnight. After being quenched with sat. NH4Cl, the mixture was extracted with EtOAc (3×). The organic layer was washed with sat. NaHCO3 (aq), brine, then dried (MgSO4) and concentrated. Silica gel chromatography (elution with 0-30% EtOAc/Hex) afforded product 5-(benzyloxymethyl)-4-methoxy-5H-pyrrolo[3,2-d]pyrimidine (2.36 g).

reactant | 4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 10.0 mmol, 1.53 g | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | NaH | 14.0 mmol, 560 mg | [H-].[Na+]
reactant | benzyl chloromethyl ether | 13.0 mmol, 1.71 mL | ClCOCC1=CC=CC=C1 | C8H9ClO
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | NaH | 10.0 mmol, 400 mg | [H-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | MeOH | 8 mL | CO | CH4O
product | 5-(benzyloxymethyl)-4-methoxy-5H-pyrrolo[3,2-d]pyrimidine | 2.36 g | C(C1=CC=CC=C1)OCN1C=CC=2N=CN=C(C21)OC | C15H15N3O2
